US05338740
C. 3-Bromo-7-chloro-6,7-dihydro-5H-[1]pyrindine
To a solution of 3-bromo-6,7-dihydro-5H-[1]pyrindine N-Oxide (250 mg, 1.17 mM) in 3 mL of CH2Cl2 at room temperature was added POCl3 (0.131 mL, 1.4 mM) and triethylamine (0.202 mL, 1.4 mM). The reaction was stirred at room temperature for 2 hours then was extracted from saturated NaHCO3 solution into ethyl acetate, washed with saturated NaCl, dried over MgSO4, filtered, and concentrated to dryness. The product was used crude in the next step. 1H NMR (CDCl3): d 8.60 (s, 1 H), 7.80 (s, 1 H), 5.40 (d, 1 H), 3.00 (m, 2 H), 2.20 (m, 2 H)

reactant | 3-bromo-6,7-dihydro-5H-[1]pyrindine N-Oxide | 1.17 mM, 250 mg | BrC=1C=[N+](C=2CCCC2C1)[O-] | C8H8BrNO
reactant | POCl3 | 1.4 mM, 0.131 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 1.4 mM, 0.202 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-7-chloro-6,7-dihydro-5H-[1]pyrindine | BrC=1C=NC=2C(CCC2C1)Cl | C8H7BrClN
